US04377634
13 g of 3-mercapto-5-n-pentyl-4-phenyl-1,2,4-triazole was dissolved in 200 ml of methanol, and the solution was stirred under ice cooling. To the solution was added 12 g of 2-(1,1,3,3-tetramethylbutyl)benzoquinone in small portions. After the addition, the solution was stirred under ice cooling for 2 hours, and then allowed to stand at room temperature (25°±5° C.) overnight. The methanol was removed under reduced pressure, and 20 ml of diethyl ether was added to the residue. The crystals obtained were collected by filtration, and recrystallized from ethyl acetate to obtain 5 g of 2-(5-n-pentyl-4-phenyl-1,2,4-triazol-3-ylthio)-5-(1,1,3,3-tetramethylbutyl)hydroquinone having a melting point of 198° C.

reactant | 3-mercapto-5-n-pentyl-4-phenyl-1,2,4-triazole | 13 g | SC1=NN=C(N1C1=CC=CC=C1)CCCCC | C13H17N3S
reactant | 2-(1,1,3,3-tetramethylbutyl)benzoquinone | 12 g | CC(CC(C)(C)C)(C)C=1C(C=CC(C1)=O)=O | C14H20O2
solvent | methanol | 200 ml | CO | CH4O
product | 2-(5-n-pentyl-4-phenyl-1,2,4-triazol-3-ylthio)-5-(1,1,3,3-tetramethylbutyl)hydroquinone | 5 g | C(CCCC)C=1N(C(=NN1)SC1=C(O)C=C(C(=C1)O)C(CC(C)(C)C)(C)C)C1=CC=CC=C1 | C27H37N3O2S
